US07723347B2
2-Fluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine
23 mg (80 μmol) of N-(2-fluoro-4-nitrophenyl)-3-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine are dissolved in 12 ml of ethanol. 19 mg (19 μmol) of 10% palladium-on-carbon are added and the mixture is hydrogenated in a hydrogen atmosphere at atmospheric pressure overnight. The mixture is filtered through Celite and the solvent is removed under reduced pressure.

reactant | N-(2-fluoro-4-nitrophenyl)-3-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine | 80 μmol, 23 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)NC=C2C | C14H11FN4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 19 μmol, 19 mg | [Pd] | Pd
product | 2-Fluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | FC1=C(C=CC(=C1)N)NC1=C2C(=NC=C1)NC=C2C | C14H13FN4
